US07410963B2
3-(8-Methoxy-1-methyl-2-oxo-7-(4-cyanophenyl)-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-benzonitrile
Prepared from 3-(7-bromo-8-methoxy-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-benzonitrile Intermediate 9 using the same method described for Example 1 and instead of using benzene boronic acid, we used 4-cyanophenyl boronic acid. The title compound (25 mg) was obtained as a beige solid, (yield=14%).

reactant | 3-(7-bromo-8-methoxy-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-benzonitrile | BrC1=CC2=C(N(C(CN=C2C=2C=C(C#N)C=CC2)=O)C)C=C1OC | C18H14BrN3O2
reactant | benzene boronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 4-cyanophenyl boronic acid | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
product | 3-(8-Methoxy-1-methyl-2-oxo-7-(4-cyanophenyl)-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-benzonitrile | 25 mg, yield=14% | COC=1C(=CC2=C(N(C(CN=C2C=2C=C(C#N)C=CC2)=O)C)C1)C1=CC=C(C=C1)C#N | C25H18N4O2
